US04201702
About 1 part by weight of fine, granular, hydrated silica, 3 parts by weight of methallyl chloride, 5 parts by weight of N-vinyl-2-pyrrolidone and 10 parts by weight of 3% aqueous solution of hydrogen peroxide are mixed then agitated at ambient pressure and temperature for 1 to 12 hours, thereby producing an emulsion of poly (methallyl chloride N-vinyl-2-pyrrolidone) copolymer. The water is then evaporated.

reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
reactant | N-vinyl-2-pyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | hydrogen peroxide | OO | H2O2
product | methallyl chloride N-vinyl-2-pyrrolidone | C(=C)N1C(CCC1)=O.C(C(C)=C)Cl | InChI=1S/C6H9NO.C4H7Cl/c1-2-7-5-3-4-6(7)8;1-4(2)3-5/h2H,1,3-5H2;1,3H2,2H3
